US05604213
(c) 17-(3-Pyridyl)androsta-4,16-dien-3-one
To solution of 3-[2,3,5,6-tetrafluoro-4-(trifluoromethyl)phenoxy]-17-(3-pyridyl)androsta-3,5,16-triene (0.423 g, 0.75 mmol) in THF (5 ml) was added ethanol (5 ml) followed by aqueous hydrochloric acid (1M, 5 ml) and the mixture heated, with stirring, by an oil bath at 65° C. for 48h and allowed to cool. The mixture was poured into water (20 ml), neutralised with aqueous sodium hydroxide (1M), and extracted with diethyl ether (3×30 ml). The ether extracts were combined, dried (Na2CO3), and concentrated. Chromatography, on elution with diethyl ether, afforded the title compound (185 mg, 71%) which crystallised from diethyl ether, m.p. 148°-150° C. IR νmax 1674 cm- ; 1H-NMR(CDCl3) inter alia δ1.07(3H,s,18-CH3), 1.24(3H,s,19-CH3), 5.76(1H,s,4-H), 5.99(1H,m,16-H), 7.23(1H,m,Py 5-H), 7.64(1H,m,Py 4-H), 8.47(1H,m,Py 6-H), 8.62(1H,m,Py 2-H); MS m/z 347 (M+).

reactant | 3-[2,3,5,6-tetrafluoro-4-(trifluoromethyl)phenoxy]-17-(3-pyridyl)androsta-3,5,16-triene | 0.75 mmol, 0.423 g | FC1=C(OC2=CC3=CC[C@H]4[C@@H]5CC=C([C@@]5(C)CC[C@@H]4[C@]3(CC2)C)C=2C=NC=CC2)C(=C(C(=C1F)C(F)(F)F)F)F | C31H28F7NO
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 1M, 5 ml | Cl | ClH
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 17-(3-Pyridyl)androsta-4,16-dien-3-one | 185 mg, 71% | N1=CC(=CC=C1)C=1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O | C24H29NO
